US08754101B2
Intermediate 2: Ethyl 3-(hydroxymethyl)imidazo[1,2-a]pyridine-8-carboxylate
A mixture of ethyl imidazo[1,2-a]pyridine-8-carboxylate (1 g, 5.26 mmol), sodium acetate (1.725 g, 21.03 mmol), formaldehyde (36.5% wt. in water, 2.5 mL, 33.1 mmol) and acetic acid (1.145 mL, 20 mmol) was stirred at room temperature for 3 hours. The reaction mixture was then heated at reflux for a further 4 hours and then cooled and diluted with water (50 mL). The pH was adjusted to 8 with saturated aqueous sodium hydrogen carbonate solution (ca. 10 mL) and the solution was extracted successively with ethyl acetate (3×50 mL) and 3:1 chloroform:isopropanol (100 mL). The organic extracts were combined, washed successively with saturated sodium bicarbonate (50 mL) and brine (50 mL) and dried (MgSO4), filtered and the solvent evaporated in vacuo. The residue was dissolved in dichloromethane and purified on a silica cartridge (100 g) using a 0-30% methanol (+1% Et3N)-DCM gradient over 60 mins. The product containing fractions were combined and evaporated in vacuo to give the title compound as a colourless oil (1.007 g)

reactant | ethyl imidazo[1,2-a]pyridine-8-carboxylate | 5.26 mmol, 1 g | N=1C=CN2C1C(=CC=C2)C(=O)OCC | C10H10N2O2
reactant | sodium acetate | 21.03 mmol, 1.725 g | C(C)(=O)[O-].[Na+]
reactant | formaldehyde | 33.1 mmol, 2.5 mL | C=O | CH2O
reactant | acetic acid | 20 mmol, 1.145 mL | C(C)(=O)O | C2H4O2
reactant | sodium hydrogen carbonate | ca. 10 mL | C(O)([O-])=O.[Na+]
solvent | water | 50 mL | O | H2O
product | Ethyl 3-(hydroxymethyl)imidazo[1,2-a]pyridine-8-carboxylate | 1.007 g | OCC1=CN=C2N1C=CC=C2C(=O)OCC | C11H12N2O3
